datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[O:4][H:14])([H:5])([H:6])[H:7].[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:5])([H:6])[H:7].[O:4]([H:14])[H:15],89.8552
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10],123.93
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13](=[C:14]([C:15]([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])[H:20])([H:18])[H:19]>>[C:0](=[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14](=[C:13]([H:18])[H:19])[H:20])([C:16](=[C:17]([H:23])[H:24])[H:22])[H:21])([H:5])[H:6],81.337
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([O:8])([H:9])([H:10])[H:11]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][O:8][C:7]([H:9])([H:10])[H:11],12.472504
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16]([C:17]([C:18](=[C:19]([H:25])[H:26])[H:24])[H:23])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:17]([C:16](=[C:15]([H:20])[H:21])[H:22])([C:18](=[C:19]([H:25])[H:26])[H:24])[H:23],53.9736
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:19]([c:20]1[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]1[H:32])([H:26])[H:27],104.315
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6]([C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])[H:14])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:10],108.073
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])([H:15])[H:16],73.6384
[C:0]([C:1]([C:2]([O:3][O:4])([H:12])[H:13])([C:5]([O:6][O:7][H:16])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([O:3][O:4][H:11])([H:12])[H:13])[C:5]([O:6][O:7][H:16])([H:14])[H:15])([H:8])([H:9])[H:10],122.1728
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[O:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]=[O:4])[H:8])([H:5])([H:6])[H:7].[H:12][C:13]([H:14])([H:15])[H:16],36.4008
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([H:8])[H:9]>>[C:0]1([H:3])([H:4])[C:1](=[C:2]([H:5])[H:6])[C:7]1([H:8])[H:9],-0.556472
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[H:15][H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:16])[H:8])([H:6])[H:7].[H:15],129.286
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:18])([H:19])[H:20])[C:7](=[C:8]([H:22])[H:23])[H:21])[H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]([H:15])([H:16])[C:4]1([C:5]([C:6]([H:18])([H:19])[H:20])[C:7](=[C:8]([H:22])[H:23])[H:21])[H:17],18.1586
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4](=[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])=[C:9]([C:10]([H:24])([H:25])[H:26])[C:11]#[C:12][H:27])([H:19])[H:20])[H:18])[H:17])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])=[C:5]([H:18])[C:6]([H:19])([H:20])[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]1([C:10]([H:24])([H:25])[H:26])[C:11]#[C:12][H:27])[H:13],128.909
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[C:1][H:5])([H:3])[H:4].[O:2]([H:6])[C:7]([H:8])([H:9])[H:10],208.587
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](#[C:10][C:11]([C:12]([H:15])([H:16])[H:17])[C:13]([H:18])([H:19])[H:20])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:11]([C:10]#[C:9][H:14])([C:12]([H:15])([H:16])[H:17])[C:13]([H:18])([H:19])[H:20])[H:5],33.4302
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([C:13]([H:19])([H:20])[H:21])[H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])([C:12]([C:13]([H:19])([H:20])[H:21])[H:18])[H:17])[H:4],41.8818
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7]([C:8]([H:18])[H:19])([H:16])[H:17])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7]([H:16])([H:17])[C:8]1([H:18])[H:19])[H:9],133.888
